US06121201
1,1-Dibromo-3,3,3-trifluoroacetone (0.162 g) was added to a solution of sodium acetate (0.162 g) in water (0.5 ml) and the solution heated at 80° C. for 20 minutes. It was cooled to 0° C. and 4-chloro-2-fluoro-5-(pyrimidyloxy)-phenylhydrazine hydrachloride (0.15 g) was added. After stirring at room temperature for 2 hour the reaction mixture was processed to give 3,3,3-trifluoro-2-oxopropanal 4-chloro-2-fluoro-5-(pyrimidyloxy)-phenylhydrazone (0.122 g) mp=188-90° C.

reactant | 1,1-Dibromo-3,3,3-trifluoroacetone | 0.162 g | BrC(C(=O)C(F)(F)F)Br | C3HBr2F3O
reactant | sodium acetate | 0.162 g | C(C)(=O)[O-].[Na+]
reactant | 4-chloro-2-fluoro-5-(pyrimidyloxy)-phenylhydrazine | ClC1=CC(=C(C=C1OC1=NC=CC=N1)NN)F | C10H8ClFN4O
solvent | water | 0.5 ml | O | H2O
product | 3,3,3-trifluoro-2-oxopropanal 4-chloro-2-fluoro-5-(pyrimidyloxy)-phenylhydrazone | 0.122 g | ClC1=CC(=C(C=C1OC1=NC=CC=N1)NN=CC(C(F)(F)F)=O)F | C13H7ClF4N4O2
